US09024032B2
A mixture of 3-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one (7.30 g, 31.6 mmol), 2-fluoro-4-iodopyridine (10.56 g, 47.35 mmol), and K2CO3 (10.9 g, 79 mmol) in DMSO (80 mL) was heated at 80° C. overnight. The reaction mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), filtered and concentrated. The residue was washed with EtOAc and filtered, and the collected solid dried to give 4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one. 1H-NMR (DMSO, 400 MHz) δ 8.41 (dd, J=8.0, 2.4 Hz, 1H), 8.30 (s, 1H), 8.20 (m, 2H), 7.81 (dd, J=4.0, 0.8 Hz, 1H), 7.35 (d, J=8.4 Hz, 2H), 6.92 (d, J=8.4 Hz, 2H), 6.28 (d, J=7.6 Hz, 1H), 4.96 (s, 2H), 3.72 (s, 3H). MS (M+H)+ 435.1.

reactant | 3-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | 31.6 mmol, 7.30 g | COC1=CC=C(COC2=CNC=CC2=O)C=C1 | C13H13NO3
reactant | 2-fluoro-4-iodopyridine | 47.35 mmol, 10.56 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | K2CO3 | 79 mmol, 10.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one | IC1=CC(=NC=C1)N1C=C(C(C=C1)=O)OCC1=CC=C(C=C1)OC | C18H15IN2O3
